US05153214
To a solution of the crude methyl (S)-8-(benzyloxy)-4-(formylmethyl)octanoate (2.44 g crude) in ethanol (22 ml) is added sodium borohydride (0.307 g, 8.1 mmol). The reaction is stirred for 15 minutes and then poured into water. The pH of the mixture is adjusted to 8.0 using saturated sodium bicarbonate solution. The mixture is extracted with methylene chloride (3×30 ml) and the combined organic extracts are dried, filtered and evaporated to give an oil. This is purified by flash chromatography on silica gel using 1:1 ethyl acetate/hexane as eluent to yield methyl (S)-8-(benzyloxy)-4-(2-hydroxyethyl)-octanoate (oil), [alpha]D25 -1.22° (c 1.02 in methanol).

reactant | methyl (S)-8-(benzyloxy)-4-(formylmethyl)octanoate | 2.44 g | C(C1=CC=CC=C1)OCCCC[C@@H](CCC(=O)OC)CC=O | C18H26O4
reactant | sodium borohydride | 8.1 mmol, 0.307 g | [BH4-].[Na+]
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 22 ml | C(C)O | C2H6O
product | methyl (S)-8-(benzyloxy)-4-(2-hydroxyethyl)-octanoate | C(C1=CC=CC=C1)OCCCC[C@@H](CCC(=O)OC)CCO | C18H28O4
